US05597826
7-(3-Nitro-2-pyridinylamino)-1-(4-methyl-piperazinyl)-naphthalene
7-Amino-1-(4-methyl-1-piperazinyl)-naphthalene (0.247 g, 1.02 mmol), 2-chloro-3-nitropyridine (0.325 g, 2.05 mmol), and 4-dimethylaminopyridine (0.062 g, 0.51 mmol) were combined in dry DMF (0.15 mL). The solution was refluxed 4 hours then 0.5 mL more DMF was added and the mixture was allowed to stir at ambient temperature overnight. 2-Chloro-3-nitropyridine (0.105 g, 0.69 mmol), and 4-dimethylaminopyridine (0.062 g, 0.51 mmol) were added and the mixture was refluxed 2 hours more. The solvent was removed in vacuo and the residue was taken up in methylene chloride. This organic phase was washed with 0.5N sodium hydroxide and brine; then it was dried over calcium sulfate and concentrated to a red oil which was flash chromatographed on silica gel (1×4 inches). Gradient elution with 50% to 75% ethyl acetate/hexane followed by elution with 100% ethyl acetate gave a dark colored oil which crystallized upon addition of ether (2 mL) to yield 0.19 g (51%) as a dark red solid: mp 127.5°-129° C. Analysis calculated for C20H21N5O2 ; C, 66.10; H, 5.82; N, 19.27. Found: C, 66.04; H, 5.81; N, 19.02.

reactant | 7-Amino-1-(4-methyl-1-piperazinyl)-naphthalene | 1.02 mmol, 0.247 g | NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H19N3
reactant | 2-chloro-3-nitropyridine | 2.05 mmol, 0.325 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-Chloro-3-nitropyridine | 0.69 mmol, 0.105 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
catalyst | 4-dimethylaminopyridine | 0.51 mmol, 0.062 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 0.15 mL | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.51 mmol, 0.062 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 7-(3-Nitro-2-pyridinylamino)-1-(4-methyl-piperazinyl)-naphthalene | [N+](=O)([O-])C=1C(=NC=CC1)NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C20H21N5O2
